Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
penicillin
 
Attending: ___.
 
Chief Complaint:
headache, new brain metastases
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
As per admitting MD:
Ms. ___ is a ___ lady with ER/PR/HER2 positive 
metastatic
breast cancer on pertuzumab/trastuzumab maintenance who presents
with two months of worsening headaches with finding of new CNS
metastatic diseas on MRI head. 

Two months prior she began having frequent headaches which
predominated in the morning. She was relieved by taking Excedrin
but over the past few day her headaches have continues worsening
to the point they would no longer respond to Excedrin. She 
denies
having any nausea, vomiting, weakness, numbness, tingling. She
did not a 'general feeling of lassitude'. She saw Dr. ___ at 
___
on ___ and made note of these symptoms promptying referral for
MRI head. Given new finding of brain metastases she was referred
to the ED for goal of admission to consult neuro-oncology and
radiation oncology. 

ED initial vitals were  98.1 75 143/89 18 100% RA
Prior to transfer vitals were 98.4 71 133/88 18 98% RA

Exam in the ED showed : "NAD. ___, heart, lungs, abdomen
unremarkable. ___ without edema. Neuro AOx3 without facial
droop or gross focal deficit. S/s intact in bilat UE ___. FNF
normal. DG Babinski bilat. "
 
ED work-up significant for:
-CBC: WBC: 7.6. HGB: 12.7. Plt Count: 269. Neuts%: 62.2. 
-Chemistry: Na: 139 . K: 4.1. Cl: 104. CO2: 19*. BUN: 17. Creat:
0.9. 

ED management significant for:
-Medications: dexamethasone 4mg po x1

On arrival to the floor, patient reports her headache improved 
by
noon today. She describes her headache as global and
pressure-like. 

Patient denies fevers/chills, night sweats, headache, vision
changes, dizziness/lightheadedness, weakness/numbnesss, 
shortness
of breath, cough, hemoptysis, chest pain, palpitations, 
abdominal
pain, nausea/vomiting, diarrhea, hematemesis,
hematochezia/melena, dysuria, hematuria, and new rashes. 

 
Past Medical History:
As per admitting MD:
PAST ONCOLOGIC HISTORY (Per Atrius Oncology notes, reviewed): 
"-She initially presented with LEFT breast mass, early satiety,
and weight loss in ___. Biopsy of the mass confirmed
invasive ductal carcinoma that was ER/PR positive and HER2
positive. She was seen by Dr ___ breast surgery and found
to have worsening LFTs with a ___ elevated at 6290. 
 
-CT scan in ___ confirmed liver mets, ascites, bony mets,
and several nonspecific pulm nodules. Bone scan at diagnosis
confirmed extensive disease. She was seen by Dr ___ 
started
on chemotherapy on ___ with pertuzumab, trastuzumab, and
paclitaxel with Lupron/zometa. She had initially had issue with
flushing but after additional anti histamines and steroids she
was able to complete the infusions. 
 
-Repeat CT scan in ___, shows dramatic response in the L
breast lesion, L ax node and liver mets with improvement of bony
lesions c/w treatment effect. She completed six cycles of
paclitaxel in ___ (no imaging done) but continued on her
pertuzumab and trastuzumab every 3 weeks and Lupron and Zometa.
In ___, she was switched to zometa 3 mo and in ___.
Lupron was discontinued ___.
 
-CT scan from ___ demonstrates excellent response. New
findings in the chest were most c/w thymus remnant which is not
worrisome. Liver mets are dramatically improved. 

-Given response, last dose of Lupron was ___ and 
discontinued

Repeat imaging in ___ demonstrated continued response
  
-Last Echocardiogram:  ___ -> EF 60% -> repeat in 3mo,
ordered 
 
-In ___, tumor marker increased so CT torso was done 
which
demonstrated stable disease and ?new L ovarian cyst. Pelvic u/s
was recommended which demonstrated likely hemorrhagic cyst and
f/u pelvic u/s in ___ months was recommended. 
 
Continued pert/traz, offered tamoxifen which patient declined at
the time."

PAST MEDICAL HISTORY (Per OMR, reviewed):  
-Peripheral neuropathy ___ paclitaxel)
-Hemorrhagic cyst of the ovary
-Peripheral retinal degeneration

 
Social History:
___
Family History:
As per admitting MD:
-MGM: Breast cancer in ___
-Pat. aunt: ?Lung cancer
-___. GM: Lung cancer ___
 
Physical Exam:
Admission:
VS: ___ ___ Temp: 97.9 PO BP: 126/82 HR: 68 RR: 18 O2 sat:
98% O2 delivery: RA 
GENERAL: Well- appearing lady, in no distress lying in bed
comfortably.
___: Anicteric, PERLL, Mucous membranes moist, oropharynx
clear.
CARDIAC: Regular rate and rhythm, no murmurs, rubs or gallops.
LUNG: Appears in no respiratory distress, clear to auscultation
bilaterally, no crackles, wheezes, or rhonchi.
ABD: Non-distended, normal bowel sounds, soft, non-tender, no
guarding, no palpable masses, no organomegaly.
EXT: Warm, well perfused. No lower extremity edema. No erythema
or tenderness.
NEURO: Alert and oriented, good attention, linear thought
process. CN III-XII intact. Strength full throughout. Sensation
to light touch intact. Slightly broad based gait, unable to
tandem gait.
SKIN: No significant rashes. Right chest port without erythema,
secretion, tenderness.

Discharge:
GENERAL: Well-appearing lady, in no distress lying in bed
comfortably, daughter at bedside
___: Anicteric, PERLL, Mucous membranes moist, oropharynx
clear. CNII-XII intact without deficits
CARDIAC: Regular rate and rhythm, no murmurs, rubs or gallops.
LUNG: Appears in no respiratory distress, clear to auscultation
bilaterally, no crackles, wheezes, or rhonchi.
ABD: Non-distended, normal bowel sounds, soft, non-tender, no
guarding
EXT: Warm, well perfused. No lower extremity edema. No erythema
or tenderness.
NEURO: Alert and oriented, good attention, linear thought
process. CN II-XII intact. Strength full throughout. Sensation
to light touch intact. Slightly broad based gait, difficulty 
with
tandem gait. 
SKIN: No significant rashes. Right chest port without erythema,
secretion, tenderness.
 
Pertinent Results:
Admissions:

___ 06:38PM BLOOD WBC-7.6 RBC-4.18 Hgb-12.7 Hct-37.5 MCV-90 
MCH-30.4 MCHC-33.9 RDW-13.9 RDWSD-45.1 Plt ___
___ 06:38PM BLOOD Glucose-88 UreaN-17 Creat-0.9 Na-139 
K-4.1 Cl-104 HCO3-19* AnGap-16
___ 05:20AM BLOOD Albumin-4.8 Calcium-9.6 Phos-3.3 Mg-2.3
___ 05:20AM BLOOD ALT-17 AST-21 LD(LDH)-204 AlkPhos-63 
TotBili-0.3

IMAGING: 
Reviewed in OMR and significant for
___ MRI Head: "
1. Multiple enhancing cerebellar lesions consistent with
metastatic disease with mild mass effect on the fourth ventricle
and superior vermis but without hydrocephalus or signs of
herniation.   
2. 15 mm left centrum semiovale supratentorial enhancing lesion.
3. 23 x 10 mm extra-axial left frontoparietal lesion does not
have any associated underlying bony abnormalities the
differential diagnosis remaining between a meningioma and a
dural-based metastasis.  In absence of underlying bony
abnormality, meningioma appears more likely but if patient has
any prior imaging studies of the brain comparison would be
helpful."

CT Chest:
2 tiny lung nodules, nature indeterminate.  No adenopathy or 
pleural 
abnormality. Extensive lytic and blastic bone lesions, suggests 
chemotherapy of widespread osseous metastases.  No pathologic or 
compression fractures. Possible neoplasm, left thyroid lobe 
would warrant ultrasound evaluation. 
  
RECOMMENDATION(S):  Consider ultrasound for possible thyroid 
nodule, if 
appropriate given patient's general clinical circumstances. 

CT A/P:
  
1. Stable hypoenhancing lesions within the liver. 
2. Overall stable numerous osseous sclerotic lesions throughout 
the lumbar 
spine and iliac bones. 
3. No adnexal masses identified. Left adnexal cyst is probably 
resolved. 
4. No new metastatic disease. 

 
Brief Hospital Course:
___ PMH of ER/PR/HER2 positive metastatic breast cancer on 
pertuzumab/trastuzumab maintenance who presented with two months 
of worsening headaches with finding of new CNS metastatic 
disease on MRI head, s/p radonc/neuro oncology evaluation, 
discharged on dexamethasone with plan to start radiation the day 
of discharge and followup in ___ clinic. 

#Secondary neoplasm of the brain
#Vasogenic cerebral edema
#Headache
#Metastatic Breast Cancer
Patient had had fairly stable systemic disease but presented 
with progressive headaches and finding diffuse metastatic 
disease with >10 lesions and largest lesion burden in posterior 
fossa. There was note of partial obliteration of ___ ventricle 
due to mass
effect but no signs of herniation. Given multiple lesions will 
require whole brain radiation which she completed simulation for 
and will start in ___ the day of discharge, for which she 
will complete 10 treatments. She was initially started on 
dexamethasone q6h but was discharged on 4mg BID as per Dr ___, 
with plan to continue tapering in the outpatient setting. She 
was given Bactrim for fungal ppx and Prilosec for GI ppx. 
Patient is to f/u in ___ clinic in ___ weeks for 
evaluation by Dr ___ for MRI total spine w/ gadolinium to 
evaluate for additional metastatic lesions. She will f/u in 
medical oncology clinic and review pending final read of CT 
Torso, which showed thyroid nodule which was communicated to 
medical oncologist via email. Changes to her breast cancer 
treatment regimen will be discussed at that appointment. 

#Peripheral neuropathy, likely ___ paclitaxel
Continued on pyridoxine 50mg daily

#Paronychia: 
Completed SMX-TMP DS bid on ___, then was switched to DS dosing 
to be taken every other day for PCP ___. 

I personally spent 41 minutes coordinating care with outpatient 
providers, preparing discharge paperwork, educating patient and 
answering questions
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Sulfameth/Trimethoprim DS 1 TAB PO BID paronychia 
2. Pyridoxine 50 mg PO DAILY 
3. Excedrin Migraine (aspirin-acetaminophen-caffeine) 250-250-65 
mg oral BID:PRN 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H:PRN Headache  
2.  Dexamethasone 4 mg PO Q12H 
RX *dexamethasone 1 mg 4 tablet(s) by mouth every twelve (12) 
hours Disp #*200 Tablet Refills:*0 
3.  Omeprazole 40 mg PO DAILY 
RX *omeprazole 40 mg 1 capsule(s) by mouth daily Disp #*30 
Capsule Refills:*0 
4.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 1 tablet(s) by mouth every six (6) hours Disp 
#*30 Tablet Refills:*0 
5.  Sulfameth/Trimethoprim DS 1 TAB PO EVERY OTHER DAY 
RX *sulfamethoxazole-trimethoprim 800 mg-160 mg 1 tablet(s) by 
mouth every other day Disp #*15 Tablet Refills:*1 
6.  Pyridoxine 50 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Metastatic breast cancer with brain metastases
paronychia
peripheral neuropathy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___, 

It was a pleasure taking of you at ___. As you know, you were 
admitted for brain metastases, for which you met our radiation 
and neuro oncologist. You are set to start radiation at ___ 
today at 2:30pm and will continue for 10 treatments. You were 
started on dexamethasone (steroid), to reduce any inflammation 
around the brain lesions, which you should continue at the 
direction of either your radiation or neuro oncologist. 
Eventually they will taper your dose down. In the meantime, you 
should take Bactrim to prevent a fungal pneumonia and Prilosec 
to prevent stomach problems. For pain, you should take Tylenol 
for minor headache, and oxycodone for severe headaches. Please 
avoid any NSAIDs (Advil, motrin, aleve) as they have a risk of 
bleeding. If you have any new neurologic symptoms you should 
discuss with your neuro or medical oncologist immediately. Dr 
___ will arrange an MRI of your spine in the next ___ 
weeks to ensure you do not have any other metastatic lesions. 
Please followup your final CT scan result with Dr ___. 
 
Followup Instructions:
___